US08791108B2
A mixture of ethyl 6-(2-ethoxy-2-oxoethyl)-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (25 g, 81 mmol), and N,N-dimethylaniline (20.62 mL, 163 mmol) in POCl3 (100 mL) was heated at 120° C. for 3 h. Then, cooled, concentrated to half the volume and then poured into ice water and stirred for 20 min. Precipitates formed were filtered and solids were dissolved in ethyl acetate (1 L) and washed with water. Filterate was then extracted with ethyl acetate and combined organic layers were washed with brine (200 mL), dried (Na2SO4), filtered and concentrated. The crude was then triturated with EtOAc/hexane to afford ethyl 7-chloro-6-(2-ethoxy-2-oxoethyl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (22 g, 67.5 mmol, 83% yield) as light yellow solid. 1H NMR (500 MHz, CDCl3) δ: 7.21 (s, 1H), 4.52 (q, J=7.2 Hz, 2H), 4.24 (q, J=7.2 Hz, 2H), 3.94 (s, 2H), 2.66 (s, 3H), 1.48 (t, J=7.0 Hz, 3H), 1.30 (t, J=7.2 Hz, 3H). LCMS (M+H)=326.2.

reactant | ethyl 6-(2-ethoxy-2-oxoethyl)-7-hydroxy-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 81 mmol, 25 g | C(C)OC(CC=1C(=NC=2N(C1O)N=C(C2)C(=O)OCC)C)=O | C14H17N3O5
reactant | N,N-dimethylaniline | 163 mmol, 20.62 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 7-chloro-6-(2-ethoxy-2-oxoethyl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 67.5 mmol, 22 g, 83% yield | ClC1=C(C(=NC=2N1N=C(C2)C(=O)OCC)C)CC(=O)OCC | C14H16ClN3O4
